US08476255B2
Preparation of 3-(3,4,5-trimethoxyphenyl)-2-(4-fluorophenyl)acrylic acid
A mixture of 4-fluoro phenyl acetic acid (2 g, 13 mmol), 3,4,5 trimethoxybenzaldehyde (2.5 g, 13 mmol), Ac2O (10 mL) and DIPEA (2.9 mL, 16.8 mmol) was stirred at room temperature for 12 hours. Upon completion, as monitored by TLC using DCM:MeOH (9:1) as the eluent, 10% aqueous HCl (10 mL) was added to the reaction mixture; the precipitate formed was filtered and dissolved in DCM (100 mL). The organic layer was washed with 10% aqueous NaOH (3×50 mL) and the basic aqueous solution was acidified with 10% aqueous HCl to pH 3. The precipitate formed was filtered, washed with 100 mL water and dried to get the product (2.4 g, 56% yield).

reactant | 4-fluoro phenyl acetic acid | 13 mmol, 2 g | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | 3,4,5 trimethoxybenzaldehyde | 13 mmol, 2.5 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | Ac2O | 10 mL | CC(=O)OC(=O)C | C4H6O3
reactant | DIPEA | 16.8 mmol, 2.9 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 10 mL | Cl | ClH
solvent | DCM MeOH | C(Cl)Cl.CO
product | 3-(3,4,5-trimethoxyphenyl)-2-(4-fluorophenyl)acrylic acid | 2.4 g, 56% yield | COC=1C=C(C=C(C1OC)OC)C=C(C(=O)O)C1=CC=C(C=C1)F | C18H17FO5
